US07112638B2
Synthesis of 2-methyl-3-phenylthiophene
The 5-methyl-4-phenyl-2-thiophenecarboxylic acid (54 g, 0.25 mol) prepared as described above was heated to 220–230° C. until the evolution of carbon dioxide ceased. The product was collected and distilled, b.p. 117° C./10 torr. Yield 30 g (70%).

reactant | 5-methyl-4-phenyl-2-thiophenecarboxylic acid | 0.25 mol, 54 g | CC1=C(C=C(S1)C(=O)O)C1=CC=CC=C1 | C12H10O2S
reactant | carbon dioxide | C(=O)=O | CO2
product | 2-methyl-3-phenylthiophene | CC=1SC=CC1C1=CC=CC=C1 | C11H10S
